US06383984B1
6′-butoxy-2,6-dichloro-4′,5′-dimethoxy-2′-methylbenzophenone (coded BB-1);
2,6-dichloro-4′,5′-dimethoxy-6′-(2-fluorobenzyloxy)-2′-methylbenzophenone (coded BB-2); 6′-benzyloxy-4′,5′-dimethoxy-2,6-dimethyl-2′-methylbenzophenone (coded BB-3); and 3-bromo-2′,6-dimethyl-2,40 ,5′,6′-tetramethoxybenzophenone (coded BB-4).

reactant | 2,6-dichloro-4′,5′-dimethoxy-6′-(2-fluorobenzyloxy)-2′-methylbenzophenone | ClC1=C(C(=O)C2=C(C=C(C(=C2OCC2=C(C=CC=C2)F)OC)OC)C)C(=CC=C1)Cl | C23H19Cl2FO4
reactant | 6′-benzyloxy-4′,5′-dimethoxy-2,6-dimethyl-2′-methylbenzophenone | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1C(C1=C(C=CC=C1C)C)=O)C)OC)OC | C25H26O4
product | 6′-butoxy-2,6-dichloro-4′,5′-dimethoxy-2′-methylbenzophenone | C(CCC)OC1=C(C(=CC(=C1C(C1=C(C=CC=C1Cl)Cl)=O)C)OC)OC | C20H22Cl2O4
